* Auto-generated by NgspiceCompilerService
RVCC VCC 0 12V
RGND 0 0 0V
RIN NET_IN 0 Input
ROUT NET_OUT 0 Output
Q1 NET_COLLECTOR NET_BASE NET_EMITTER_SPLIT QNPN
R1 VCC NET_BASE 47k
R2 NET_BASE 0 10k
RC VCC NET_COLLECTOR 2k
RE1 NET_EMITTER_SPLIT 0 680
RE2 NET_EMITTER_SPLIT 0 100
CIN NET_IN NET_BASE 1uF
CE NET_EMITTER_SPLIT 0 470uF
COUT NET_COLLECTOR NET_OUT 1uF
.model QNPN NPN(BF=180 IS=1e-14 VAF=100)
VTB IN 0 SINE(0 1 1k)
.tran 1u 5m
.control
run
wrdata output.tsv v(IN) v(OUT)
write output.raw
quit
.endc
.end
