* Auto-generated by NgspiceCompilerService
Q1 COLLECTOR BASE EMITTER QNPN
R1 VCC BASE 47k
R2 BASE 0 10k
RC VCC COLLECTOR 2.2k
RE1 EMITTER BYPASS 100
RE2 EMITTER 0 100
CE BYPASS 0 10uF
CIN IN BASE 1uF
COUT COLLECTOR OUT 1uF
RVCC VCC 0 12V
RGND 0 0 0V
RIN IN 0 1
ROUT OUT 0 1
.model QNPN NPN(BF=180 IS=1e-14 VAF=100)
VTB IN 0 SINE(0 1 1k)
.tran 1u 5m
.control
run
wrdata output.tsv v(IN) v(OUT)
write output.raw
quit
.endc
.end
