* Auto-generated by NgspiceCompilerService
Q1 BASE EMITTER COLLECTOR QNPN
R1 VCC BASE 47k
R2 BASE 0 10k
RC VCC COLLECTOR 2.2k
RE1 EMITTER RE_NODE 220
RE2 EMITTER 0 1k
C1 IN_CAP BASE 10uF
C2 COLLECTOR 0 10uF
CE EMITTER RE_NODE 47uF
RVCC VCC 0 12V
RGND 0 0 0
.model QNPN NPN(BF=180 IS=1e-14 VAF=100)
VTB IN_CAP 0 SINE(0 1 1k)
.tran 1u 5m
.control
run
wrdata output.tsv v(IN_CAP) v(VCC)
write output.raw
quit
.endc
.end
